US07410966B2
6-Bromo-2-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-3H-imidazo[4,5-b]pyridine
The title compound was prepared from 6-bromo-2-[4-(3-chloropropoxy)phenyl]-3H-imidazo[4,5-b]pyridine and pyrrolidine using the method described in Example 46.

reactant | 6-bromo-2-[4-(3-chloropropoxy)phenyl]-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCCCCl | C15H13BrClN3O
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 6-Bromo-2-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCCCN2CCCC2 | C19H21BrN4O
